US05055473
(A) 2-Chloromethyl-5-nitrobenzoxazole
2-Amino-4-nitrophenol (10 g, 65 mmole) and ethyl chloroacetimidate hydrochloride (15.4 g, 97.5 mmole) were heated at reflux temperature in ethanol (100 ml) for 18 hours. The solvent was then removed by evaporation in vacuo and the residue recrystallised from ethanol to give the title compound, yield 9.0 g, m.p. 216°-217°.

reactant | 2-Amino-4-nitrophenol | 65 mmole, 10 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | ethyl chloroacetimidate hydrochloride | 97.5 mmole, 15.4 g | Cl.ClCC(OCC)=N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Chloromethyl-5-nitrobenzoxazole | ClCC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H5ClN2O3
